### PR TITLE
Add Erdős Problem 270 (irrationality of Σ 1/((n+1)⋯(n+f(n)))), link the formal disproof

### LINKED ISSUE #6150: Erdős Problem 270
### What is the Erdős problem?

https://www.erdosproblems.com/270

Let $f(n)\to \infty$ as $n\to \infty$. Is it true that $\sum_{n\geq 1} \frac{1}{(n+1)\cdots (n+f(n))}$ is irrational?

Status: disproved (Lean). Crmarić–Kovač showed every $\alpha > 0$ is such a sum; a formal proof exists in plby/lean-proofs (`Erdos270.not_erdos_270`, Codex and GPT-5.6 Sol). The nondecreasing case and the case $f(n) = n$ remain open.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6150.

### What changed
Adds `FormalConjectures/ErdosProblems/270.lean` with `series f = ∑' n, (∏ i ∈ Icc (n+2) (n+1+f(n+1)), i)⁻¹` (the series `∑_{n ≥ 1} 1/((n+1)⋯(n+f(n)))` indexed from `0`) and:
- `erdos_270` (`research solved`, `answer(False)`): irrationality for every `f → ∞`. Disproved by Crmarić–Kovač [CrKo25]; linked to plby/lean-proofs `Erdos270.not_erdos_270` (Codex and GPT-5.6 Sol).
- `erdos_270.variants.every_value`: every `α > 0` is such a sum, linked to `Erdos270.erdos_270_resolution`.
- `erdos_270.variants.monotone` and `erdos_270.variants.linear` (`research open`): the nondecreasing case and `f(n) = n`.

### How checked
- Rebuilt plby's file (single file, Mathlib-only) against this repo's Mathlib: `#print axioms Erdos270.not_erdos_270` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the two linked statements on top of a renamed copy, same axioms (the summand is plby's `productTerm n (f (n+1)) = ((n+2).ascFactorial (f (n+1)))⁻¹`):

<details>
<summary>Bridge</summary>

```lean
open Filter

namespace Bridge270

lemma term_eq (n k : ℕ) :
    (∏ i ∈ Finset.Icc (n + 2) (n + 1 + k), (i : ℝ))⁻¹ = Erdos270Plby.productTerm n k := by
  rw [Erdos270Plby.productTerm_eq_prod, ← Finset.Ico_add_one_right_eq_Icc,
    Finset.prod_Ico_eq_prod_range, show n + 1 + k + 1 - (n + 2) = k by omega]

theorem every_value_bridge : type_of% Erdos270.erdos_270.variants.every_value := by
  intro α hα
  obtain ⟨f, -, hf, hsum⟩ := Erdos270Plby.erdos_270_resolution α hα
  refine ⟨f, hf, ?_⟩
  simp only [term_eq]
  simpa only [Erdos270Plby.productTerm] using hsum

theorem erdos_270_bridge : type_of% Erdos270.erdos_270 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  obtain ⟨f, hf, hsum⟩ := every_value_bridge 1 one_pos
  have := h f hf
  rw [Erdos270.series, hsum.tsum_eq] at this
  exact this ⟨1, by simp⟩

end Bridge270
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«270»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/270.lean [hunk 1]
```diff
@@ -0,0 +1,91 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/270.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
